US05576324
2-Aminomethyl-5,8-dimethyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one·HCl
2-Azidomethyl-5,8-dimethyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one (2.76 g, 10.2 mmol) was dissolved in tetrahydrofuran (200 ml), to which 10% palladium-on-carbon (2.76 g) was added. The mixture was stirred at room temperature for 2 hours in the atmospher of hydrogen. The catalyst was filtered off, and the filtrate was condensed. The residue was converted to a hydrochloric acid salt, and then subjected to recrystallization (methanol-ether) to obtain 2.10 g of the title compound as yellow crystals (73.4%).

reactant | 2-Azidomethyl-5,8-dimethyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one | 10.2 mmol, 2.76 g | N(=[N+]=[N-])CC1CC=2C(=C3C=C(C(NC3=C(C2)C)=O)C)O1 | C14H14N4O2
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | palladium-on-carbon | 2.76 g | [Pd] | Pd
product | 2-Aminomethyl-5,8-dimethyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one·HCl | 2.10 g, 73.4% | NCC1CC=2C(=C3C=C(C(NC3=C(C2)C)=O)C)O1.Cl | InChI=1S/C14H16N2O2.ClH/c1-7-3-9-5-10(6-15)18-13(9)11-4-8(2)14(17)16-12(7)11;/h3-4,10H,5-6,15H2,1-2H3,(H,16,17);1H
